US04814343
alpha-(2,2-Dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol hydrochloride
15.88 g of alpha-(6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol (prepared as in 4. above), dissolved in 160 ml of methanol, are subjected to hydrogenolysis in the presence of 3 g of 10% palladium on carbon under a hydrogen pressure of 3.5 bars at 50° C. for 150 minutes. The catalyst is then filtered off, the solvent is removed and the residue is stirred in diethyl ether. The ethereal phase is decanted off and the residue obtained is used as such in the following step.

reactant | alpha-(6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol | 15.88 g | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(O)C=1N=CN(C1)C | C15H17ClN2O3
solvent | methanol | 160 ml | CO | CH4O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | alpha-(2,2-Dimethyl-4H-1,3-benzodioxin-8-yl)-1-methyl-1H-imidazole-4-methanol hydrochloride | Cl.CC1(OCC2=C(O1)C(=CC=C2)C(O)C=2N=CN(C2)C)C | InChI=1S/C15H18N2O3.ClH/c1-15(2)19-8-10-5-4-6-11(14(10)20-15)13(18)12-7-17(3)9-16-12;/h4-7,9,13,18H,8H2,1-3H3;1H
